2140-11-03 07:20:00 Physician Resident Progress Note
Chief Complaint: Pneumotosis intestinalis
   24 Hour Events:
   Pt weaned to PSV on [**9-6**]
   Pt received 500cc NS bolus for low BP (MAP 60
 ARTERIAL LINE - START [**2140-11-2**] 08:53 PM
   Inserted by anasthesia pre-op
 EKG - At [**2140-11-2**] 10:41 PM
 BLOOD CULTURED - At [**2140-11-3**] 12:18 AM
   drawn from arterial line
   BC # 1
 BLOOD CULTURED - At [**2140-11-3**] 05:22 AM
   peripheral stick
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2140-11-2**] 10:32 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2140-11-3**] 12:00 AM
   Midazolam (Versed) - [**2140-11-3**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 88 (81 - 99) bpm
   BP: 93/53(67) {88/50(64) - 147/65(88)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    475 mL
                                                                  2,450 mL
   PO:
             TF:
   IVF:
                                                                    475 mL
                                                                  2,450 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                    585 mL
   Urine:
                                                                    160 mL
                                                                    385 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                  1,865 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.37/38/106/24/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, lethargic,
   but arousable. Pt able to shake head yes/ no
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Tender: diffuse tenderness,
   grimace to light palpation, Obese, cecectomy tube draining stools
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   132 K/uL
   10.3 g/dL
   169 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   56 mg/dL
   111 mEq/L
   142 mEq/L
   31.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2140-11-2**]  09:10 PM
                             [**2140-11-2**]  09:41 PM
                             [**2140-11-3**]  04:50 AM
   WBC
   8.2
   7.1
   Hct
   35.5
   31.0
   Plt
   140
   132
   Cr
   1.7
   1.7
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   189
   169
   Other labs: PT / PTT / INR:15.8/31.9/1.4, CK / CKMB /
   Troponin-T:87/4/<0.01, ALT / AST:111/26, Alk Phos / T Bili:68/2.6,
   Differential-Neuts:82.1 %, Lymph:10.3 %, Mono:6.9 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:228 IU/L, Ca++:7.2 mg/dL,
   Mg++:3.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assesment: 70yoM w/ hepatocellular cancer, unresectable s/p
   chemoembolization with acute abdomen and free air now s/p ex lap sent
   to [**Hospital Unit Name 4**] for closer monitoring.
   .
   Plan:
   # ACUTE ABDOMEN: found to have pneumotosis intestinalis without clear
   cause? Possible causes include mesenteric ischemia from celiac axsis
   during chemo-embol, excessive narcotic, spontaneous, although clear
   cause is still uncertain. Pt went for ex-lap and had a dilated cecum to
   14cm and a cecostomy tube was placed.
   -per surgery continue cipro / flagyl
   -while ventilating can aim for slightly higher PaO2 of around 200 as
   may have benefit in pneumotosis intestinalis
   -f/u surgery recs
   -NGT to low continuous suction
   -monitor stool output from cecostomy tube
   -bolus for urine output < 50cc, weight is 100kg
   -f/u blood cultures from [**10-31**] and from [**10-29**], thus far NGTD, re-check
   blood cultures today.
   - change pain meds to morphine
   .
   #Change in Mental Status: Patient was noted to be lethargic while on
   OMED DDx: encephalopathic versus narcotics, 1 week ago his INR and
   albumin were normal, more recently post embolization his INR was 1.5
   and albumin 2.9.  Today the INR is 1.4 and albumin 2.6
   - check ammonia level
   - will hold sedation and reassess mental status
   - will hold lactulose for now
   -trend LFTs and INR / albumin.
   .
   # PULMONARY: no acute pulmonary process with the exception of a
   question pneumonia.   On mechanical ventilation currently, mental
   status was depressed prior to intubation per surgery.  Pt is lethargic,
   but able to respond to commands and answer yes/no questions.  Pt was on
   PSV, tolerating and extubated..
   - Will cont to monitor resp status
   .
   # ARF: baseline Cr 1.3.  Admitted on [**10-27**] with a Cr of 1.4, peak [**11-2**]
   to 2.1 now 1.7.  Likely ATN [**3-5**] contrast given during
   chemoembolization.
   -continue to trend
   -renal has consulted and per renal urine is c/w ATN
   -renally dose meds
   -follow urine output and avoid further insult and IVF
   .
   # Hypotension: Pt with episodes of  hypotensive MAP 60's when sleeping,
   but increases when patient is aroused and awakened.
   - will hold BP meds for now and bolus to maintain MAP >65
   - eventually will restart home medications
   .
   # ?Pneumonia: the patient had been on levaquin for the past few days
   for a question of pneumonia.  L hilar opacity.
   -has rec'd a 5 day course of levoflox and rec'd 1 dose of vanc /
   meropenem today so has likely finished an adequate course of treatment
   for community acquired pneumonia
   - f/u CXR today
   .
   # Portal Vein Thrombosis: Known portal vein thrombosis, the patient had
   not been on anticoagulation until this past weekend (Sunday [**10-30**])-
   treatment doses of lovenox.  Will hold lovenox for now and d/w surgery
   when it is okay from a surgical standpoint to restart the lovenox
   safely.
   -          will order abdominal u/s to assess chronic vs. acute portal
   vein thrombosis
   -          - will f/u with surgery and onc
   .
   # Hepatocellular carcinoma: s/p chemoembolization on [**10-27**].
   -f/u Onc recs
   -has not rec'd any chemo, tumor was unresectable, may also have primary
   renal cell +/- primary prostate CA but these have not been biopsied /
   diagnosed as of yet
   .
   # FEN:  NPO for now, advance diet slowly- will f/u surgery recs re:
   diet advancement
   .
   # Access: 3xPIV and A line
   .
   # PPx:  sc heparin tid, pneumoboots, H2 blocker
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-11-2**] 08:53 PM
   20 Gauge - [**2140-11-2**] 08:56 PM
   22 Gauge - [**2140-11-2**] 08:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-11-04 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Extubated y'day.
 RUQ ULTRASOUND - At [**2140-11-3**] 01:30 PM --> showed left portal vein
   non-occlusive thrombus (old?).
   - Restarted on lovenox.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2140-11-3**] 10:07 PM
   Metronidazole - [**2140-11-4**] 01:53 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2140-11-3**] 08:11 AM
   Morphine Sulfate - [**2140-11-3**] 05:04 PM
   Enoxaparin (Lovenox) - [**2140-11-3**] 08:14 PM
   Famotidine (Pepcid) - [**2140-11-4**] 12:00 AM
   Metoprolol - [**2140-11-4**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-4**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 90 (85 - 99) bpm
   BP: 140/68(91) {106/53(69) - 140/75(96)} mmHg
   RR: 18 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,321 mL
                                                                    804 mL
   PO:
             TF:
   IVF:
                                                                  5,321 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    690 mL
   Urine:
                                                                  1,875 mL
                                                                    690 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,246 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: ///24/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   9.6 g/dL
   180 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   46 mg/dL
   112 mEq/L
   143 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2140-11-2**]  09:10 PM
                             [**2140-11-2**]  09:41 PM
                             [**2140-11-3**]  04:50 AM
                             [**2140-11-4**]  04:05 AM
   WBC
   8.2
   7.1
   8.7
   Hct
   35.5
   31.0
   29.2
   Plt
   140
   132
   124
   Cr
   1.7
   1.7
   1.3
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   189
   169
   180
   Other labs: PT / PTT / INR:17.2/37.8/1.6, CK / CKMB /
   Troponin-T:87/4/<0.01, ALT / AST:78/25, Alk Phos / T Bili:70/2.3,
   Differential-Neuts:82.1 %, Lymph:10.3 %, Mono:6.9 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.3 g/dL, LDH:228 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: RUQ US: 1. Patent main portal and right portal vein. There is
   flow within the left portal vein but is not wall-to-wall suggesting
   non-occlusive thrombus. Since the horizontal branch of the portal vein
   is not seen the nonocclusive thrombus might be more affecting the
   horizontal branch. There is flow within the vertical branch.
   2. Heterogeneous but predominantly solid mass with vascular flow seen
   within
   the upper pole of the left kidney.
   3. Trace fluid seen around the gallbladder but no evidence for
   cholecystitis.
   4. Heterogenous mass in the right lobe of the liver, consistent with
   HCC status post chemoembolization.
   Assessment and Plan
   70yoM w/ hepatocellular cancer, unresectable, s/p chemoembolization
   complicated by acute abdomen w/ pneumatosis intestinalis, now s/p ex
   lap sent to [**Hospital Unit Name 4**] for closer monitoring.  Extubated [**2140-11-3**].
   # ACUTE ABDOMEN: found to have pneumotosis intestinalis without clear
   cause? Possible causes include mesenteric ischemia from celiac axis
   during chemo-embol, excessive narcotic, spontaneous, although clear
   cause is still uncertain. Pt went for ex-lap and had a dilated cecum to
   14cm and a cecostomy tube was placed.
   -per surgery continue cipro / flagyl
   -while ventilating can aim for slightly higher PaO2 of around 200 as
   may have benefit in pneumotosis intestinalis
   -f/u surgery recs
   -NGT to low continuous suction
   -monitor stool output from cecostomy tube
   -bolus for urine output < 50cc, weight is 100kg
   -f/u blood cultures from [**10-31**] and from [**10-29**], thus far NGTD, re-check
   blood cultures today.
   - change pain meds to morphine
   .
   #Change in Mental Status: Patient was noted to be lethargic while on
   OMED.  Still somewhat confused.  DDx: encephalopathic versus narcotics,
   1 week ago his INR and albumin were normal, more recently post
   embolization his INR was 1.5 and albumin 2.9.  Today the INR is 1.4 and
   albumin 2.6
   - will hold sedation and reassess mental status
   - will hold lactulose for now
   -trend LFTs and INR / albumin.
   # PULMONARY: no acute pulmonary process with the exception of a
   question pneumonia.   On mechanical ventilation currently, mental
   status was depressed prior to intubation per surgery.  Pt is lethargic,
   but able to respond to commands and answer yes/no questions.  Pt was on
   PSV, tolerating and extubated..
   - Will cont to monitor resp status
   .
   # ARF: baseline Cr 1.3.  Admitted on [**10-27**] with a Cr of 1.4, peak [**11-2**]
   to 2.1 now 1.3.  Likely ATN [**3-5**] contrast given during
   chemoembolization.
   -continue to trend
   -renal has consulted and per renal urine is c/w ATN
   -renally dose meds
   # Hypotension: Pt with episodes of  hypotensive MAP 60's when sleeping,
   but increases when patient is aroused and awakened.
   - will hold BP meds for now and bolus to maintain MAP >65
   - eventually will restart home medications
   .
   # ?Pneumonia: the patient had been on levaquin for the past few days
   for a question of pneumonia.  L hilar opacity.
   -has rec'd a 5 day course of levoflox and rec'd 1 dose of vanc /
   meropenem today so has likely finished an adequate course of treatment
   for community acquired pneumonia
   - f/u CXR today
   # Portal Vein Thrombosis: Known portal vein thrombosis, the patient had
   not been on anticoagulation until this past weekend (Sunday [**10-30**])-
   treatment doses of lovenox.  Will hold lovenox for now and d/w surgery
   when it is okay from a surgical standpoint to restart the lovenox
   safely.
   -   will order abdominal u/s to assess chronic vs. acute portal vein
   thrombosis
   - will f/u with surgery and onc
   # Hepatocellular carcinoma: s/p chemoembolization on [**10-27**].
   -f/u Onc recs
   -has not rec'd any chemo, tumor was unresectable, may also have primary
   renal cell +/- primary prostate CA but these have not been biopsied /
   diagnosed as of yet
   # FEN:  NPO for now, advance diet slowly- will f/u surgery recs re:
   diet advancement
   # Access: 3xPIV and A line
   # PPx:  sc heparin tid, pneumoboots, H2 blocker
   # Code:  FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-11-2**] 08:53 PM
   20 Gauge - [**2140-11-2**] 08:56 PM
   22 Gauge - [**2140-11-2**] 08:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: